resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 20.466792
R2 0 n2 0.988544
R3 0 n4 0.013866
R4 n1 n3 0.983398
R5 n1 n5 0.982599
R6 n2 n3 1.005101
R7 n2 n6 1.00767
R8 n3 n7 0.990457
R9 n4 n5 0.993347
R10 n4 n6 1.002922
R11 n5 n7 1.002639
R12 n6 n7 1.000715
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
